US04643990
To a solution of N-hydroxysuccinimide ester of 3-(9-octadecenoyloxy)-11-eicosenoic acid (3 g) in N,N-dimethylformamide (30 ml) was added a solution of L-valine (4.42 g) and a 1N sodium hydroxide solution (37 ml) at 0° C. The resulting mixture was stirred at ambient temperature overnight. The reaction mixture was acidified with 1N hydrochloric acid solution, extracted with ethyl acetate, washed with water and dried over magnesium sulfate. Ethyl acetate was distilled off to give powder of N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valine (2.7 g).

reactant | 3-(9-octadecenoyloxy)-11-eicosenoic acid | 3 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)O)CCCCCCCC=CCCCCCCCC | C38H70O4
reactant | L-valine | 4.42 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | sodium hydroxide | 1N, 37 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-[3-(9-octadecenoyloxy)-11-eicosenoyl]-L-valine | 2.7 g | C(CCCCCCCC=CCCCCCCCC)(=O)OC(CC(=O)N[C@@H](C(C)C)C(=O)O)CCCCCCCC=CCCCCCCCC | C43H79NO5
